US05116862
1-(7-Methoxyhept-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 8-methoxyoct-6-ynoic acid and 3-hydroxymethyl-3-n-propyloxetane using the methodology described in Example 1.

reactant | 8-methoxyoct-6-ynoic acid | COCC#CCCCCC(=O)O | C9H14O3
reactant | 3-hydroxymethyl-3-n-propyloxetane | OCC1(COC1)CCC | C7H14O2
product | 1-(7-Methoxyhept-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | COCC#CCCCCC12OCC(CO1)(CO2)CCC | C16H26O4
